US06451740B2
A mixture of 4.05 g of 2-benzyloxyphenol and 9.5 ml of N,N-dimethylformamide was added dropwise into a mixture of 0.80 g of sodium hydride and 20 ml of N,N-dimethylformamide while cooling with ice, and the mixture was stirred for 30 minutes. A mixture of 7.1 g of 2,5-difluoro-4-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]nitrobenzene (described later, produced in Intermediate Production Example 4) and 17 ml of N,N-dimethylformamide was added dropwise at the same temperature, and stirred for 1 hour. This reaction solution was poured into ice water, and extracted with ethyl acetate. The organic layer was washed once with 1N hydrochloric acid and once with saturated saline and dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography to obtain 8.6 g of 2-(2-benzyloxyphenoxy)-5-fluoro-4-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]nitrobenzene.

reactant | 2-benzyloxyphenol | 4.05 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)O | C13H12O2
reactant | sodium hydride | 0.80 g | [H-].[Na+]
reactant | 2,5-difluoro-4-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]nitrobenzene | 7.1 g | FC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)[N+](=O)[O-] | C12H6F5N3O4
solvent | N,N-dimethylformamide | 17 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 9.5 ml | CN(C=O)C | C3H7NO
product | 2-(2-benzyloxyphenoxy)-5-fluoro-4-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]nitrobenzene | 8.6 g | C(C1=CC=CC=C1)OC1=C(OC2=C(C=C(C(=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F)[N+](=O)[O-])C=CC=C1 | C25H17F4N3O6
